US05541229
4'-[(Benzimidazol-1-yl)-methyl]biphenyl-2-carboxylic acid
Prepared in analogous manner to Example 9 from tert.butyl 4'-[(benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate and trifluoroacetic acid.

reactant | tert.butyl 4'-[(benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate | N1(C=NC2=C1C=CC=C2)CC2=CC=C(C=C2)C=2C(=CC=CC2)C(=O)OC(C)(C)C | C25H24N2O2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 4'-[(Benzimidazol-1-yl)-methyl]biphenyl-2-carboxylic acid | N1(C=NC2=C1C=CC=C2)CC2=CC=C(C=C2)C=2C(=CC=CC2)C(=O)O | C21H16N2O2
